US07812183B2
(3S,4R)-4-(5-Chloro-2,3-dioxo-2,3-dihydro-indol-1-yl)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #24)
Following the procedure described in the Example 1, using (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-chloro-1H-indole-2,3-dione as starting materials, the title compound was prepared as a white solid.

reactant | (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1([C@@H]2[C@H](C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-chloro-1H-indole-2,3-dione | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | (3S,4R)-4-(5-Chloro-2,3-dioxo-2,3-dihydro-indol-1-yl)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | ClC=1C=C2C(C(N(C2=CC1)[C@H]1[C@@H](C(OC2=CC=C(C=C12)C#N)(C)C)O)=O)=O | C20H15ClN2O4
